US04853389
Step (3) Preparation of 4-Chloro-N-(1,1-dimethylethyl)-2-(methylthio)-5-pyrimidinesulfonamide
N-(1,1-Dimethylethyl)-4-hydroxy-2-(methylthio)-5-pyrimidinesulfonamide (5.0 g, 18.05 mmol) and finely ground PCl5 (3.95 g, 18.95 mmol, 1.05 eq) were mixed as dry solids. Enough POCl3 was added to make a slurry (7 mL) and the mixture was warmed. The mixture loosened, turned more yellow, evolved a gas, and became homogeneous over a 10 minute period. The reaction was cooled to ambient temperature, diluted with methylene chloride and toluene and evaporated to dryness in vacuo to yield a pale yellow solid. The crude solid was crystallized from ethanol and water to give 3.8 g (12.86 mmoles, 71%) of pure product, m.p. 117°-118° C. as a white solid.

reactant | N-(1,1-Dimethylethyl)-4-hydroxy-2-(methylthio)-5-pyrimidinesulfonamide | 18.05 mmol, 5.0 g | CC(C)(C)NS(=O)(=O)C=1C(=NC(=NC1)SC)O | C9H15N3O3S2
reactant | PCl5 | 18.95 mmol, 3.95 g, 1.05 eq | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 4-Chloro-N-(1,1-dimethylethyl)-2-(methylthio)-5-pyrimidinesulfonamide | 12.86 mmoles, 3.8 g, 71% | ClC1=NC(=NC=C1S(=O)(=O)NC(C)(C)C)SC | C9H14ClN3O2S2
